US06872839B1
A 15 l multi-necked vessel with stirrer, dropping funnel, water separator, condenser and thermometer is charged with stirring and in succession with 300 ml of toluene, 212 g of 97% 2,4-di-tert-butylphenol (Aldrich 99%), 121.9 ml of 50% strength aqueous glyoxylic acid and 0.5 g of p-toluenesulfonic acid monohydrate. The reaction mixture is subsequently refluxed vigorously with thorough stirring. This is accompanied by the separation of the water present in the glyoxylic acid, and the water of reaction from the first stage. After a reflux time of about 3 h, the separation of water ends, to leave a homogeneous, pale yellow solution of 5,7-di-t-butyl-3-hydroxybenzofuran-2-one. Thereafter, the toluene is distilled off under atmospheric pressure and with a heating-bath temperature of up to 142° C. The crystalline solid is subsequently dried at 80° C./50 mbar.

reactant | water | O | H2O
reactant | 2,4-di-tert-butylphenol | 212 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | p-toluenesulfonic acid monohydrate | 0.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 5,7-di-t-butyl-3-hydroxybenzofuran-2-one | C(C)(C)(C)C=1C=C(C2=C(C(C(O2)=O)O)C1)C(C)(C)C | C16H22O3
